US03950393
2-Acetylamino-5-bromo-4-tert.butyl-N-cyclohexyl-N-methylbenzylamine hydrochloride by method A
A mixture of 25 gm of 2-acetylamino-5-bromo-4-tert.butyl-benzyl bromide, 1.5 liters of carbon tetrachloride and 23 gm of N-methyl-cyclohexylamine was refluxed for 1 hour. After cooling, the precipitated N-methyl-cyclohexylamine hydrobromide was filtered off and the filtrate was evaporated. The residue was admixed with 2 N hydrochloric acid, and the mixture was extracted twice with benzene. The acid phase was made alkaline with concentrated ammonia, extracted three times with chloroform, and the organic phase was dried and evaporated. The residue was purified by column-chromatography on silicagel with ethylacetate/chloroform (1:1), and 2-acetylamino-5-bromo-4-tert.butyl-N-cyclohexyl-N-methylbenzylamine hydrochloride was precipitated from a solution of the purified residue in ethanol/ether with ethanolic hydrochloric acid. The crude product was recrystallized from ethanol-ether, whereupon it had a melting point of 231°-234°C.

reactant | 2-acetylamino-5-bromo-4-tert.butyl-benzyl bromide | 25 gm | C(C)(=O)NC1=C(CBr)C=C(C(=C1)C(C)(C)C)Br | C13H17Br2NO
reactant | N-methyl-cyclohexylamine | 23 gm | CNC1CCCCC1 | C7H15N
reactant | carbon tetrachloride | 1.5 liters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Acetylamino-5-bromo-4-tert.butyl-N-cyclohexyl-N-methylbenzylamine hydrochloride | Cl.C(C)(=O)NC1=C(CN(C)C2CCCCC2)C=C(C(=C1)C(C)(C)C)Br | InChI=1S/C20H31BrN2O.ClH/c1-14(24)22-19-12-17(20(2,3)4)18(21)11-15(19)13-23(5)16-9-7-6-8-10-16;/h11-12,16H,6-10,13H2,1-5H3,(H,22,24);1H
